US07875639B2
4,5-dimethyl-3-(2-morpholin-4-ylethyl)-1,3-thiazol-2(3H)-ylideneamine
A mixture of 4,5-dimethyl-thiazol-2-ylamine (1.0 g, 7.8 mmol), 4-(2-chloro-ethyl)-morpholine hydrochloride (1.6 g, 8.6 mmol) and triethylamine (2.4 mL, 17.2 mmol) were heated at 80° C. After 3 hours, additional triethylamine (1.1 mL, 7.9 mmol) was added and the mixture was stirred at 80° C. for 14 hours, then cooled to ambient temperature and concentrated. The residue was diluted with methylene chloride and washed with saturated aqueous sodium bicarbonate and water. The organic extract was dried over magnesium sulfate, filtered and concentrated under reduced pressure to provide 0.26 g (14%) of a 3:1 mixture of title compound to 4,5-dimethyl-thiazol-2-ylamine. MS (DCI/NH3) m/z 242 (M+H)+.

reactant | 4,5-dimethyl-thiazol-2-ylamine | 7.8 mmol, 1.0 g | CC=1N=C(SC1C)N | C5H8N2S
reactant | 4-(2-chloro-ethyl)-morpholine hydrochloride | 8.6 mmol, 1.6 g | Cl.ClCCN1CCOCC1
reactant | triethylamine | 17.2 mmol, 2.4 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 7.9 mmol, 1.1 mL | C(C)N(CC)CC | C6H15N
product | 4,5-dimethyl-3-(2-morpholin-4-ylethyl)-1,3-thiazol-2(3H)-ylideneamine | CC=1N(C(SC1C)=N)CCN1CCOCC1 | C11H19N3OS
